US03931407
A mixture of 1.25 g. (0.0033 mole) of 3-(3-carboxy-4-hydroxyphenyl)-4,5-dihydro-2-phenylbenz[e]indole, 1 ml. of acetic anhydride, 10 ml. of glacial acetic acid, and 0.1 g. of p-toluenesulfonic acid was stirred at room termperature under nitrogen for 6 days. The solid which separated was collected, washed with acetic acid and petroleum ether, dried and recrystallized from methanol to provide 0.23 g (16%) of 3-(4-acetoxy-3-carboxyphenyl)-1-acetyl-4,5-dihydro-2-phenylbenz[e]indole. Concentration of the mother liquor, followed by recrystallization of the residue from ethanol-water, gave 0.25 g. (18%) of crystals, m.p. 223°-226°.

reactant | 3-(3-carboxy-4-hydroxyphenyl)-4,5-dihydro-2-phenylbenz[e]indole | 0.0033 mole | C(=O)(O)C=1C=C(C=CC1O)N1C(=CC=2C3=C(CCC12)C=CC=C3)C3=CC=CC=C3 | C25H19NO3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(4-acetoxy-3-carboxyphenyl)-1-acetyl-4,5-dihydro-2-phenylbenz[e]indole | 0.23 g, 16% | C(C)(=O)OC1=C(C=C(C=C1)N1C(=C(C=2C3=C(CCC12)C=CC=C3)C(C)=O)C3=CC=CC=C3)C(=O)O | C29H23NO5
